US08012976B2
9-(4-Fluorophenyl)-8-(quinolin-6-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate (260 mg, 0.59 mmol) in 85% hydrazine monohydrate (1 mL) and methanol (5 mL) was stirred at room temperature for 4 h. The resulting mixture was filtered and washed by water (20 mL) and methanol (5 mL) to obtain the title compound as a white solid (61 mg, yield 25%). LC-MS (ESI) m/z: 409(M+1)+. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 4.52-4.55 (d, J=9.6 Hz, 1H), 4.98-5.01 (d, J=9.6 Hz, 1H), 6.97-7.01 (m, 2H), 7.19-7.22 (m, 3H), 7.41-7.43 (d, J=7.6 Hz, 1H), 7.46-7.50 (m, 1H), 7.54 (s, 1H), 7.59-7.63 (t, J=7.6 Hz, 1H), 7.77-7.79 (m, 1H), 7.84 (s, 1H), 7.91-7.93 (m, 1H), 8.24-8.26 (d, J=7.6 Hz, 1H), 8.85-8.86 (m, 1H), 12.20 (s, 1H).

reactant | ethyl 3-(4-fluorophenyl)-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.59 mmol, 260 mg | FC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C=1N(C=CN1)C | C22H20FN3O3
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 9-(4-Fluorophenyl)-8-(quinolin-6-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 61 mg, yield 25% | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C=2C=C3C=CC=NC3=CC2 | C25H17FN4O
